** sch_path: /foss/designs/CHIP-PLL/schematics/top/PLL_top_tb.sch
**.subckt PLL_top_tb
*  x1 -  PLL_top  IS MISSING !!!!
Vref clk_ref GND dc 0 ac 0 pulse(0 {Vph} {T/2} 10n 10n {T/2} {T})
Vp Vp GND dc {Vp}
Vph Vph GND dc {Vph}
C1 out GND 1p
V8 d4 GND 0
V9 d5 GND 0
V11 d0 GND 1.2
V10 d1 GND 1.2
V12 d2 GND 0
V7 d3 GND 0
V5 a1 GND 1.2
V6 a0 GND 1.2
V13 a2 GND 1.2
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ




.temp=25
.param T = 31.25u

.param Vp=1.2
.param Vph=3.3
.control
save all
tran 1p 10m

meas tran t1 WHEN v(out)=1.65 RISE=1 FROM=9m
meas tran t2 WHEN v(out)=1.65 RISE=2 FROM=9m
meas tran period PARAM='t2-t1'
meas tran freq PARAM='1/period'

write PLL_top_tb.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
