** sch_path: /foss/designs/CHIP-PLL/divider/inverter_tb.sch
**.subckt inverter_tb
x1 in out VP 0 inverter
V1 VP 0 1.2
V2 in 0 PULSE(0 1.2 0 10p 10p 3.335n 6.67n)
C1 out 0 1f
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.param temp=27
.control

op
print all
save all

tran 50p 20n
write inverter_tb.raw
set appendwrite
plot v(out) v(in)
plot X1.VP
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/CHIP-PLL/divider/inverter.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/divider/inverter.sym
** sch_path: /foss/designs/CHIP-PLL/divider/inverter.sch
.subckt inverter IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

.end
